US08309554B2
A solution of 2-fluoro-4-hydroxyaniline hydrochloride (3 g) in MeOH (50 mL) was treated with aqueous NaOH (0.74 g in 10 mL deionized water) and the resulting clear solution was concentrated to dryness to provide a residue of crude aniline free base. A 0° C. solution of the crude aniline residue in 1:1 AcOH/deionized water (32 mL) in a pressure tube was treated with liquid ethylene oxide condensed at −78° C. (7.8 g), the tube was sealed, and the reaction mixture allowed to warm up to RT. The reaction mixture was stirred at RT 48 h then cooled, evaporated to dryness and purified by silica gel chromatography (0-7% MeOH/DCM) to provide N,N-bis-(2-hydroxyethyl)-2-fluoro-4-hydroxyaniline (2 g) as a grey powder.

reactant | 2-fluoro-4-hydroxyaniline hydrochloride | 3 g | Cl.FC1=C(N)C=CC(=C1)O
reactant | NaOH | 10 mL, 0.74 g | [OH-].[Na+]
reactant | aniline | NC1=CC=CC=C1 | C6H7N
reactant | ethylene oxide | C1CO1 | C2H4O
solvent | MeOH | 50 mL | CO | CH4O
solvent | AcOH | 32 mL | CC(=O)O | C2H4O2
product | N,N-bis-(2-hydroxyethyl)-2-fluoro-4-hydroxyaniline | 2 g | OCCN(C1=C(C=C(C=C1)O)F)CCO | C10H14FNO3
